US05006159
2-Propionyl-3-hydroxy-5-(4(methylsulfinyl)phenyl)-cyclohex-2-en-1-one
To a solution of 51.6 g (0.178 mol) of 2-propionyl-3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one (prepared as in U.S. Pat. No. 4,555,263) in 150 mL of methylene chloride and 150 mL of glacial acetic acid was added 20.15 g (0.178 mol) of 30 percent hydrogen peroxide dropwise over 20 minutes. The reaction temperature rose 20° to 28° C. at which point, the reaction mixture was cooled in a cold water bath. After 20 minutes, an additional 6.75 g (0.0595 mol) of 30 percent hydrogen peroxide was added dropwise and the mixture was stirred at ambient temperature for 3 hours. The mixture was diluted with 150 mL of methylene chloride, washed thrice with 250 mL portions of water and then with 200 mL of aqueous sodium bicarbonate. The organic layer was separated and dried over Na2SO4 and the solvent removed in vacuo leaving 51.6 g (94.8 percent of theoretical) of the above named product melting at 111°-117° C. Recrystallization of the residue from 2-propanol gave the pure product in a yield of 46.1 g (84.7 percent of theoretical). The product melted at 116°-117° C.; Rf -0.07 (silica gel, 50:50 ethyl acetatehexane and 1.0 percent acetic acid), 1H NMR (CDCl3): δ1.1 (t, 3H, --CH2CH3), 2.70 (s, 3H, CH3SO--), 2.7-3.7 (m, 7H, ring protons and --CH2CH3), 7.25-7.70 (m, 4H, ArH), 18.1 (s, 1H, OH).

reactant | 2-propionyl-3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one | 0.178 mol, 51.6 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)SC)=O | C16H18O3S
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 0.178 mol, 20.15 g | OO | H2O2
reactant | hydrogen peroxide | 0.0595 mol, 6.75 g | OO | H2O2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Propionyl-3-hydroxy-5-(4(methylsulfinyl)phenyl)-cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)S(=O)C)=O | C16H18O4S
